US06184225B2
Solid potassium hydroxide (71 mg, 1.2 mmol) and then 4-chloro-6,7-dimethoxyquinazoline (0.25 g, 1.1 mmol), (prepared as described for the starting material in Example 1), were added to a melt of 2,4-dihydroxytoluene (0.6 g, 4.8 mmol) at 140° C. The mixture was stirred at 140° C. for 15 minutes, then allowed to cool. The mixture was diluted with water, and acidified to pH4 then extracted with ethyl acetate. The organic layer was washed with brine, dried (MgSO4) and the solvent removed by evaporation. The crude product was first purified by flash chromatography eluting with petroleum ether/ethyl acetate (1/9) and then by absorption HPLC eluting with trichloromethane/acetonitrile (85/15) to give 6,7-dimethoxy-4-(3-hydroxy-4-methylphenoxy)quinazoline (116 mg, 34%).

reactant | potassium hydroxide | 1.2 mmol, 71 mg | [OH-].[K+]
reactant | 4-chloro-6,7-dimethoxyquinazoline | 1.1 mmol, 0.25 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 2,4-dihydroxytoluene | 4.8 mmol, 0.6 g | OC1=C(C=CC(=C1)O)C | C7H8O2
solvent | water | O | H2O
product | 6,7-dimethoxy-4-(3-hydroxy-4-methylphenoxy)quinazoline | 116 mg, 34% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(C=C1)C)O | C17H16N2O4
